US04849420
5,6,8,9,14,14a-Hexahydroisoquino[1,2-b][3]benzazepine-2,3-diol (XIVc)
Hydrobromic acid (48%, 30 ml) was added to a glacial acetic acid (3 ml) solution of 5,6,8,9,14,14a-hexahydro-2,3-dimethoxyisoquino[1,2-b][3]-benzazepine (XIIIc, Ex. 20) (0.928 g, 3 mmole), and the resulting solution was heated under reflux for 2.5 hours, then evaporated on a rotary evaporator to give a resinous residue. The residue was dissolved in tetrahydrofurane (about 80 ml), and the solution was allowed to sit at room temperature over a weekend. The crystalline product that was separated was collected on a filter, and washed with tetrahydrofurane to give the titled product which was recrystallized from ethanol. The product (HBr salt) weighed 0.8 g (73%) and melted at 270°-272°.

reactant | Hydrobromic acid | 30 ml | Br | BrH
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | 5,6,8,9,14,14a-hexahydro-2,3-dimethoxyisoquino[1,2-b][3]-benzazepine | 3 mmole, 0.928 g | COC=1C(=CC=2CCN3C(CC4=C(CC3)C=CC=C4)C2C1)OC | C20H23NO2
solvent | tetrahydrofurane | about 80 ml | O1CCCC1 | C4H8O
product | 5,6,8,9,14,14a-Hexahydroisoquino[1,2-b][3]benzazepine-2,3-diol | C1=C(C(=CC=2CCN3C(CC4=C(CC3)C=CC=C4)C12)O)O | C18H19NO2
